US09428456B2
1-(3-Amino-4-methoxy-benzyl)-piperidine-4-carboxylic acid tert-butylamide BB-17
The title compound is prepared according to the reactions described for BB-5 above starting from 4-methoxy-3-nitro-benzaldehyde and piperidine-4-carboxylic acid tert-butylamide yielding after reductive amination 1-(4-methoxy-3-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide; LC-MS A: tR=0.60 min; [M+H]+=350.22 followed by reduction with stannous chloride the title compound; LC-MS A: tR=0.47 min; [M+H]+=320.26.

reactant | 4-methoxy-3-nitro-benzaldehyde | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCNCC1 | C10H20N2O
reactant | 1-(4-methoxy-3-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C18H27N3O4
product | 1-(3-Amino-4-methoxy-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CC(=C(C=C1)OC)N | C18H29N3O2
